US09376529B2
Synthesis of 5,6-difluorobenzo[c][1,2,5]thiadiazole
A dry 1000 mL round bottom flask, equipped with a condenser, was purged with nitrogen and charged with 4,5-difluorobenzene-1,2-diamine (10 g, 0.069 mol), 400 mL of anhydrous methylene chloride (CH2Cl2), and triethylamine (38.7 mL, 0.28 mol). The reaction flask was cooled to 0° C. and thionyl chloride (30.2 mL, 0.41 mol) was added drop-wise. The ice bath was removed and the mixture was heated to reflux for 1 hour. Completion of reaction was monitored by GC-MS. As the reaction was completed, the mixture was concentrated down, quenched with cold water, and extracted with CH2Cl2 (3×300 mL). The organic phase was dried over anhydrous MgSO4, filtered, and concentrated down. The final product was purified using column chromatography on silica gel with hexanes/ethyl acetate (80:20) gradient to yield white crystalline solid (6.3 g, 53%). Spectral data: 1H NMR (300 MHz, CDCl3): δH 7.75 (t, 2H).

reactant | 4,5-difluorobenzene-1,2-diamine | 0.069 mol, 10 g | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | triethylamine | 0.28 mol, 38.7 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 0.41 mol, 30.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 5,6-difluorobenzo[c][1,2,5]thiadiazole | 6.3 g, 53% | FC1=CC=2C(=NSN2)C=C1F | C6H2F2N2S
